US08349886B2
3-(tetrahydro-2H-pyran-4-yl)alanine ethyl ester
To a solution of potassium tert-butoxide (25.7 g) in tetrahydrofuran (800 mL) was added N-(diphenylmethylidene)glycine ethyl ester (45.20 g) over 20 min at 0 to 8° C. The reaction mixture was stirred at 0° C. for 30 min, and 4-(iodomethyl)tetrahydro-2H-pyran (42.0 g) was added thereto. The reaction mixture was stirred overnight at room temperature, and the precipitate solid was filtrated. The filtrate was concentrated, the obtained residue was dissolved in ethanol (200 mL), and 2M hydrochloric acid (200 mL) was added thereto. The reaction mixture was stirred overnight at room temperature, and concentrated. The residue was diluted with water, and the mixture was washed with ethyl acetate (×4). The aqueous layer was adjusted to pH 11 with 8M aqueous sodium hydroxide solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated to give the title compound (23.00 g, yield 67%) as a yellow oil.

reactant | potassium tert-butoxide | 25.7 g | CC(C)([O-])C.[K+]
reactant | N-(diphenylmethylidene)glycine ethyl ester | 45.20 g | C(C)OC(CN=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H17NO2
reactant | 4-(iodomethyl)tetrahydro-2H-pyran | 42.0 g | ICC1CCOCC1 | C6H11IO
solvent | tetrahydrofuran | 800 mL | O1CCCC1 | C4H8O
product | 3-(tetrahydro-2H-pyran-4-yl)alanine ethyl ester | 23.00 g, yield 67% | C(C)OC([C@@H](N)CC1CCOCC1)=O | C10H19NO3
